US06790865B2
To a stirred solution of 2-(4-aminophenyl) ethanol (5.0 g) in dichloromethane (50 ml) were added N,N-diisopropylethylamine (20 ml) and trifluoroacetic anhydride (6.6 ml) under ice-cooling, and the mixture was stirred for 1 hour at room temperature. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. Removal of the solvent under reduced pressure gave 4′-(2-hydroxyethyl)-2,2,2-trifluoroacetanilide (6.2 g).

reactant | 2-(4-aminophenyl) ethanol | 5.0 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | N,N-diisopropylethylamine | 20 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic anhydride | 6.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4′-(2-hydroxyethyl)-2,2,2-trifluoroacetanilide | 6.2 g | OCCC1=CC=C(NC(C(F)(F)F)=O)C=C1 | C10H10F3NO2
